US07598257B2
Step 5. 4-[1-(1-Cyclopentylbut-3-en-1-yl)-1H-pyrazol-4-yl]-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine
To a solution of 1.0 M potassium tert-butoxide in THF (0.207 mL) in THF (2.0 mL) at 0° C. was added triphenylmethylphosphonium bromide (77.8 mg, 0.218 mmol). The resulting mixture was warmed to room temperature and allowed to stir for 30 minutes. A solution of 3-cyclopentyl-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanal (0.100 g, 0.228 mmol) in THF (2.0 mL) was added. After 30 minutes, the mixture was quenched by the addition of saturated ammonium chloride solution and the product was then extracted with ether. The ether extract was dried over sodium sulfate and the solvent was removed in vacuo. Flash column chromatography (eluting with a gradient of 0-40% ethyl acetate in hexanes) afforded the product (40 mg, 44%).

reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | triphenylmethylphosphonium bromide | 0.218 mmol, 77.8 mg | [Br-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | 3-cyclopentyl-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanal | 0.228 mmol, 0.100 g | C1(CCCC1)C(CC=O)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C23H33N5O2Si
solvent | THF | 0.207 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 4-[1-(1-Cyclopentylbut-3-en-1-yl)-1H-pyrazol-4-yl]-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine | 40 mg, 44% | C1(CCCC1)C(CC=C)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C24H35N5OSi
